US07504410B2
To a solution of 5-bromo-2,4-dichloropyrimidine (1.0 g, 4.4 mmol, 1 equiv.) in acetonitrile (10 mL) at 0° C. was added triethylamine (0.672 mL, 4.8 mmol, 1.1 equiv.) and H-beta-Ala-OtBu HCl (0.8 g, 4.4 mmol, 1 equiv.). After removing the cooling bath the reaction mixture was stirred at room temperature overnight. The reaction mixture was concentrated and to the residue water (20 mL) was added. The precipitate was collected, washed with water and ether to afford N-(5-bromo-2-chloro-4-pyrimidinyl)-β-alanine 1,1-dimethylethyl ester (0.52 g).

reactant | 5-bromo-2,4-dichloropyrimidine | 4.4 mmol, 1.0 g, 1 equiv. | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | triethylamine | 4.8 mmol, 0.672 mL, 1.1 equiv. | C(C)N(CC)CC | C6H15N
reactant | H-beta-Ala-OtBu HCl | 4.4 mmol, 0.8 g, 1 equiv. | NCCC(=O)OC(C)(C)C.Cl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | N-(5-bromo-2-chloro-4-pyrimidinyl)-β-alanine 1,1-dimethylethyl ester | 0.52 g | CC(C)(C)OC(CCNC1=NC(=NC=C1Br)Cl)=O | C11H15BrClN3O2
